US08466283B2
Step 7: Preparation of 8-(benzyloxy)-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine
A mixture of 3-(benzyloxy)-6-(4,5-dihydro-1H-imidazol-2-yl)-2-methoxyaniline (100 g, 336 mmol) and triethylamine (188 mL) in DCM (3 L) was cooled to 0° C. and treated with cyanogen bromide (78.4 g, 740 mmol). The reaction mixture was stirred and allowed to warm to room temperature gradually. After 16 h the reaction mixture was diluted with a solution of saturated sodium bicarbonate and extracted with DCM. The organic layer was washed 3 times with saturated bicarbonate solution followed by multiple washes with brine. The organic layer was dried (sodium sulfate) and concentrated under reduced pressure to give a semi solid (130 g with triethylamine salt contamination): 1H NMR (DMSO-d6) δ: 7.30-7.48 (7H, m), 5.31 (2H, s), 4.32 (2H, m), 4.13 (2H, m), 3.81 (3H, s).

reactant | 3-(benzyloxy)-6-(4,5-dihydro-1H-imidazol-2-yl)-2-methoxyaniline | 336 mmol, 100 g | C(C1=CC=CC=C1)OC=1C(=C(N)C(=CC1)C=1NCCN1)OC | C17H19N3O2
reactant | triethylamine | 188 mL | C(C)N(CC)CC | C6H15N
reactant | cyanogen bromide | 740 mmol, 78.4 g | N#CBr | CBrN
solvent | DCM | 3 L | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 8-(benzyloxy)-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine | C(C1=CC=CC=C1)OC=1C=CC=2C=3N(C(=NC2C1OC)N)CCN3 | C18H18N4O2
